US08877774B2
Step 1. Methyl 2-(3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)acetate
The title compound was prepared as described in Example 1 Step 1 with tert-butyl (3-hydroxyphenyl)(phenyl)methylcarbamate and methyl bromoacetate replacing 3-hydroxybenzophenone and 2-(8-bromooctyl)-1,3-dioxolane, respectively

reactant | tert-butyl (3-hydroxyphenyl)(phenyl)methylcarbamate | OC=1C=C(C=CC1)N(C(OC(C)(C)C)=O)CC1=CC=CC=C1 | C18H21NO3
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | 2-(8-bromooctyl)-1,3-dioxolane | BrCCCCCCCCC1OCCO1 | C11H21BrO2
product | Methyl 2-(3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)acetate | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC(=O)OC)C=CC1)C1=CC=CC=C1 | C21H25NO5
